US06492355B1
a) 2-Bromo-5-bromomethyl-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide
To a solution of 2-bromo-5-bromomethyl-benzoic acid (6.1 g) in dichloromethane (100 ml) at 0° C. were added dimethylformamide (0.2 ml) followed by oxalylchloride (3 ml). The reaction was stirred at room temperature for 0.5 hour and concentrated under vacuum. The acylchloride was redissolved in dichloromethane (100 ml) and and di-isopropylethylamine (6 ml) followed by adamantanemethylamine (3.5 ml) added at 0° C. The mixture was stirred at 0° C. for 10 min., then partitioned between diethyl ether and 1N aqueous hydrochloric acid. The organic layer was dried over magnesium sulfate and concentrated in vacuo. The crude material was purified by recrystallisation from dichloromethane/ethylacetate/i-hexane to afford the title compound as a white solid (6.5 g) (sample contained some of the corresponding benzyl chloride).

reactant | 2-bromo-5-bromomethyl-benzoic acid | 6.1 g | BrC1=C(C(=O)O)C=C(C=C1)CBr | C8H6Br2O2
reactant | dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
reactant | oxalylchloride | 3 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-Bromo-5-bromomethyl-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide | 6.5 g | BrC1=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C=C(C=C1)CBr | C19H23Br2NO
